US04364950
(6d) 3-methyl-2-oxo-oct-5-ynyl-phosphonic acid-dimethylester
646 ml of a 1.52% butyl lithium solution in hexane is dripped into a solution of 176 g of methane phosphonic acid dimethylester in 2 liters of tetra-hydrofuran at -70° C.; the mixture is stirred for 15 minutes and slowly a solution of 82.5 g of 2-methyl-hept-4-yne acid ethylester in 320 ml of tetrahydrofuran is added. This mixture is stirred for 4 h at -70° C., neutralized with acetic acid and vacuum evaporated. The residue is reacted with 200 ml of water, extracted three times with 600 ml of methylene chloride each time, the organic extract is shaken once with 100 ml of water, dried over magnesium sulfate and vacuum evaporated. The distillation of the residue in a 0.6 torr vacuum and at 120° C. yields 85 g of the title compound in the form of a colorless liquid.

reactant | butyl lithium | C(CCC)[Li]
reactant | methane phosphonic acid dimethylester | 176 g | COP(OC)(=O)C | C3H9O3P
reactant | 2-methyl-hept-4-yne | 82.5 g | CC(C)CC#CCC | C8H14
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | tetra-hydrofuran | 2 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
product | 3-methyl-2-oxo-oct-5-ynyl-phosphonic acid-dimethylester | 85 g | COP(OC)(=O)CC(C(CC#CCC)C)=O | C11H19O4P
